US09376441B2
Crude 3,3-dibromo-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one (˜5.4 mmol) was taken up in a mixture of THF (30 mL) and saturated aqueous NH4Cl (8 mL). Zinc powder (3.6 g, 0.055 mmol) was added, and a modest exotherm was maintained via ice bath. The reaction was stirred at r.t. for 1.5 h, and the reaction was then filtered through Celite, washing with EtOAc. The organic phase was washed with water, and the combined aqueous phase was extracted with EtOAc. The combined organics were dried over Na2SO4, filtered, and concentrated to afford a crude residue that was purified by silica gel chromatography (10-100% EtOAc in hexanes) to afford 6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one (1.04 g). LCMS-ESI+ (m/z): [M+H]+ calcd for C13H20ClN2O2Si: 299.10; found: 298.98.

reactant | 3,3-dibromo-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one | ˜5.4 mmol | BrC1(C(N(C2=C1C=NC(=C2)Cl)COCC[Si](C)(C)C)=O)Br | C13H17Br2ClN2O2Si
reactant | NH4Cl | 8 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 0.055 mmol, 3.6 g | [Zn] | Zn
product | 6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridin-2(3H)-one | 1.04 g | ClC1=CC2=C(C=N1)CC(N2COCC[Si](C)(C)C)=O | C13H19ClN2O2Si
